US09328099B2
tert-Butyl 4-(4-carbamoyl-3-{[4-(3,5-dimethylisoxazol-4-yl)phenyl]amino}-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate
tert-Butyl 4-{3-[(4-bromophenyl)amino]-4-carbamoyl-1H pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate (Example #2-2) (50 mg, 0.10 mmol), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole (22 mg, 0.10 mmol), potassium carbonate (55 mg, 0.40 mmol), and tetrakis(triphenylphosphine)palladium (0) (6 mg, 0.005 mmol) was suspended in 2:1 THF:water (1.2 mL) and heated to 100° C. for 16 hours. The mixture was then cooled to ambient temperature, diluted with MeOH, and filtered through a 0.45 micron nylon syringe filter. The filtrate was concentrated in vacuo and the residue was purified by reverse-phase preparative HPLC (using a gradient elution of 35-70% MeCN/water, with 0.1% v/v TFA modifier). Desired fractions were identified, combined, and lyophilized to afford the title compound, Example #14.

reactant | tert-Butyl 4-{3-[(4-bromophenyl)amino]-4-carbamoyl-1H pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate | 0.10 mmol, 50 mg | BrC1=CC=C(C=C1)NC1=NN(C=C1C(N)=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC#N | C22H27BrN6O3
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole | 0.10 mmol, 22 mg | CC1=NOC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H18BNO3
reactant | potassium carbonate | 0.40 mmol, 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1.2 mL | O | H2O
product | tert-Butyl 4-(4-carbamoyl-3-{[4-(3,5-dimethylisoxazol-4-yl)phenyl]amino}-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CC#N)NC1=CC=C(C=C1)C=1C(=NOC1C)C | C27H33N7O4
